US03956260
14. H-Ser(tBu)-Asn-Leu-OMe
6.3 g of Z-Ser(tBu)-Asn-Leu-OMe are dissolved in 600 ml of methanol and hydrogenated in the presence of 1.2 g of palladium-charcoal (10 % Pd). After 1.25 hours the catalyst is filtered off and the solution evaporated to dryness in vacuo at 30°C bath temperature. The crystalline tripeptide derivative thereupon obtained shows Rf = 0.11 on thin layer chromatography on silica gel plates in the system chloroform-methanol (90:10).

reactant | Z-Ser(tBu)-Asn-Leu-OMe | 6.3 g | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C26H40N4O8
solvent | methanol | 600 ml | CO | CH4O
catalyst | palladium-charcoal | 1.2 g | [Pd] | Pd
product | H-Ser(tBu)-Asn-Leu-OMe | N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OC | C18H34N4O6
